US06995171B2
A. 7-Chloro-thieno[3,2-b]pyridine-2-carbothioic acid methoxymethyl amide
Solid 7-chloro-thieno[3,2-b]pyridine (60 g, 360 mmol) was added with stirring to 600 mL dry THF. Nitrogen was bubbled through the solution for ten minutes then cooled to −78° C. n-Butyl lithium (170 mL, 432 mmol) (2.5 M solution in hexanes) was added drop-wise at a rate such that the temperature is maintained below −65° C. The reaction mixture was stirred at −78° C. for three hours. Methoxymethyl isothiocyanate (43.2 mL, 468 mmol) in 400 mL THF was slowly added. Complete solution was noted after the addition was complete. The reaction mixture was then allowed to stir at −78° C. for three hours. The reaction mixture was removed from the cooling bath and 150 mL saturated NH4Cl solution was added. The reaction mixture turned a bright yellow color. THF was removed under reduced pressure, and 7-Chloro-thieno[3,2-b]pyridine-2-carbothioic acid methoxymethyl amide was filtered, washed with ethyl acetate and dried giving 93.7 g, a 95% yield as a yellow-orange solid. C10H9ClN2OS2: APCI m/z 273.0/274.9 (MH+).); 1H NMR (d6-DMSO): δ 8.60 (d, 1H, J=5.0 Hz ), 8.13 (s, 1H), 7.55 (d, 1H, J=5.0 Hz ), 4.97 (s, 2H), 2.46 (s, 3H) ppm.

reactant | 7-chloro-thieno[3,2-b]pyridine | 360 mmol, 60 g | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
reactant | n-Butyl lithium | 432 mmol, 2.5 M, 170 mL | C(CCC)[Li]
reactant | Methoxymethyl isothiocyanate | 468 mmol, 43.2 mL | COCN=C=S | C3H5NOS
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 7-Chloro-thieno[3,2-b]pyridine-2-carbothioic acid methoxymethyl amide | 95% yield | COCNC(=S)C1=CC2=NC=CC(=C2S1)Cl | C10H9ClN2OS2
